US04563310
A mixture of P-ethyl-2-nitro-5-(3,5-dichloro-2-pyridyloxy)phenylphosphinic acid (0.42 g., 1.2 mmol), potassium carbonate (2.0 mg), methyl bromoacetate (0.2 ml., 2.4 mmol), and 2-butanone (20 ml.) is heated under reflux for 2 hours. The reaction mixture is filtered and concentrated, and the crude product is purified by prep. TLC (50% ethyl acetate/hexane) to give methoxycarbonylmethyl P-ethyl-2-nitro-5-(3,5-dichloro-2-pyridyloxy)phenylphosphinate.

reactant | P-ethyl-2-nitro-5-(3,5-dichloro-2-pyridyloxy)phenylphosphinic acid | 1.2 mmol, 0.42 g | C(C)P(O)(=O)C1=C(C=CC(=C1)OC1=NC=C(C=C1Cl)Cl)[N+](=O)[O-] | C13H11Cl2N2O5P
reactant | potassium carbonate | 2.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 2.4 mmol, 0.2 ml | BrCC(=O)OC | C3H5BrO2
solvent | 2-butanone | 20 ml | CC(CC)=O | C4H8O
product | methoxycarbonylmethyl P-ethyl-2-nitro-5-(3,5-dichloro-2-pyridyloxy)phenylphosphinate | C(C)P(OCC(=O)OC)(=O)C1=C(C=CC(=C1)OC1=NC=C(C=C1Cl)Cl)[N+](=O)[O-] | C16H15Cl2N2O7P
